US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(1H-tetrazol-5-yl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(1H-tetrazol-5-yl)piperidine-1-carboxylate (304 mg) was dissolved in 2M hydrogen chloride-ethyl acetate (2 ml), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and ethyl acetate-diisopropyl ether was added. The precipitate was collected by filtration, and washed with ethyl acetate-diisopropyl ether to give the object product (219 mg).

reactant | tert-Butyl (3S,5R)-3-{{{1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(1H-tetrazol-5-yl)piperidine-1-carboxylate | 304 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2=NN=NN2)C(=O)OC(C)(C)C)CC(C)C | C28H42N8O4
reactant | hydrogen chloride-ethyl acetate | 2M, 2 ml | C(C)(=O)OCC.Cl
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(1H-tetrazol-5-yl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride | 219 mg | Cl.Cl.COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C2=NN=NN2)CC(C)C | InChI=1S/C23H34N8O2.2ClH/c1-16(2)15-31(18-12-17(13-24-14-18)21-26-28-29-27-21)23(32)22-25-19-8-4-5-9-20(19)30(22)10-6-7-11-33-3;;/h4-5,8-9,16-18,24H,6-7,10-15H2,1-3H3,(H,26,27,28,29);2*1H/t17-,18+;;/m1../s1
